US07250433B2
To a solution of 4-propyl-2-(2-trityl-2H-tetrazol-5-yl)-hept-2-enenitrile (1.60 g, 3.47 mmol) in 50 mL 1:1 MeOH:THF was added PtO2 (0.1 g), concentrated HCl (1.09 g), and the mixture was hydrogenated in a Parr shaker at 48 psi for 30 h. The mixture was filtered and concentrated. Flash chromatography of the residue on silica gel (0.25:1.25:3.5 conc. NH4OH (aq):MeOH:CH2Cl2), followed by a second column using the same conditions, provided 0.40 g (51%) of 4-propyl-2-(1H-tetrazol-5-yl)-heptylamine as a colorless solid. 1H NMR (D2O) δ 3.29 (m, 1H, —CHCH2NH2), 3.09 (m, 2H, —CH2NH2), 1.56 (m, 1H, —CHCHHCH—), 1.37 (m, 1H, —CHCHHCH—), 0.80-1.07 (m, 9H, —CH2CHCH2—, —CH2CH2—), 0.58 (t, J=6.6 Hz, 3H, CH3—), 0.47 (t, J=6.6 Hz, 3H, CH3—). Anal. Calcd for C11H23N5: C, 58.63; H, 10.29; N, 31.08. Found: C, 57.87; H, 10.04; N, 30.73.

reactant | 4-propyl-2-(2-trityl-2H-tetrazol-5-yl)-hept-2-enenitrile | 3.47 mmol, 1.60 g | C(CC)C(C=C(C#N)C=1N=NN(N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CCC | C30H31N5
reactant | MeOH | CO | CH4O
reactant | HCl | 1.09 g | Cl | ClH
catalyst | PtO2 | 0.1 g | O=[Pt]=O
solvent | THF | C1CCOC1 | C4H8O
product | 4-propyl-2-(1H-tetrazol-5-yl)-heptylamine | 0.40 g, 51% | C(CC)C(CC(CN)C1=NN=NN1)CCC | C11H23N5
